US07951838B2
Step 3: 3-Hydroxylcyclobutyl pivalate
To a stirred solution of 3-oxocyclobutyl pivalate (15.1 g, 88.7 mmol) in ethanol (100 ml) at 0° C. was added sodium borohydride (4.69 ml, 133 mmol) in several portions. The reaction was stirred for 30 min, slowly quenched with 10% aqueous HCl and concentrated to remove ethanol. The solution was taken up with more 10% HCl, extracted with DCM (3×), washed with brine, dried over MgSO4 and concentrated to give the title compound as a light yellow oil.

reactant | 3-oxocyclobutyl pivalate | 88.7 mmol, 15.1 g | C(C(C)(C)C)(=O)OC1CC(C1)=O | C9H14O3
reactant | sodium borohydride | 133 mmol, 4.69 ml | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Hydroxylcyclobutyl pivalate | C(C(C)(C)C)(=O)OC1CC(C1)O | C9H16O3
